US05576322
2-Formyl-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline
0.50 g (0.0013 mol) of 2-ethoxycarbonyl-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline was dissolved in a solvent mixture comprising 20 ml of methylene chloride and 20 ml of tetrahydrofuran. 2.6 ml of a 1.0M solution of diisobutylaluminum hydride in toluene was dropped into the solution prepared above at -78° C. under stirring. The obtained mixture was stirred at -78° C. for several hours, followed by the addition of 20 ml of methanol. The obtained mixture was distilled under a reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography and recrystallized from ethyl acetate/n-hexane to give 0.23 g of the title compound as a pale-yellow crystal.

reactant | 2-ethoxycarbonyl-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 0.0013 mol, 0.50 g | C(C)OC(=O)C1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)Cl | C19H16ClN3O4
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 20 ml | CO | CH4O
product | 2-Formyl-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 0.23 g, yield (%); 52 | C(=O)C1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)Cl | C17H12ClN3O3
